US04061656
2,5-Dichloro-3-bromomethyl thiophene (22 g., 90 mmoles) was mixed with 26 g. (99 mmoles) of triphenyl phosphine and 150 ml. of benzene. The mixture was heated to the reflux for 21/2 hours, cooled and filtered to give (2,5-dichloro-3-thenyl)triphenyl phosphonium bromide, m.p. 208-215° C.

reactant | 2,5-Dichloro-3-bromomethyl thiophene | 90 mmoles, 22 g | ClC=1SC(=CC1CBr)Cl | C5H3BrCl2S
reactant | triphenyl phosphine | 99 mmoles | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (2,5-dichloro-3-thenyl)triphenyl phosphonium bromide | [Br-].ClC1=C(C=C(S1)Cl)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H18Cl2PS.BrH/c24-22-16-18(23(25)27-22)17-26(19-10-4-1-5-11-19,20-12-6-2-7-13-20)21-14-8-3-9-15-21;/h1-16H,17H2;1H/q+1;/p-1
